US09107916B2
A. methyl 4-(2,4-difluorophenyl)-3-oxobutanoate
The title compound was prepared from 2-(2,4-difluorophenyl)acetic acid and 3-methoxy-3-oxopropanoic acid potassium salt according to the procedure for the preparation of Example 170, part A. 1H NMR (300 MHz, CDCl3): δ 3.54 (2H, s), 3.76 (3H, s), 3.86 (2H, s), 6.83-6.90 (2H, m), 7.13-7.19 (1H, m).

reactant | 2-(2,4-difluorophenyl)acetic acid | FC1=C(C=CC(=C1)F)CC(=O)O | C8H6F2O2
reactant | 3-methoxy-3-oxopropanoic acid potassium salt | [K+].COC(CC(=O)[O-])=O
product | methyl 4-(2,4-difluorophenyl)-3-oxobutanoate | FC1=C(C=CC(=C1)F)CC(CC(=O)OC)=O | C11H10F2O3
